US07612067B2
Preparation of 3-(2,4-dimethyl-2H-pyrazol-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
n-BuLi (1.3 ml, 2.09 mmol) is stirred in THF (4 ml), under N2, and cooled to −72° C. 1,4-dimethyl-1H-pyrazole (170 mg, 2.04 mmol, in THF, 1 ml) is added slowly, stirred for 5 min. then allowed to warm to ambient temp. and stirred for 45 min. The mixture is cooled to −72° C. and a zinc chloride solution (4.3 ml, 2.14 mmol, 0.5 M in toluene) added, warmed to ambient temp. and treated with 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine and PdCl2(dppf)-CH2Cl2 complex (Aldrich, 40 mg, 0.05 mmol). The mixture is heated to 65° C. overnight, cooled to ambient temp., added to water and extracted twice with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography using a hexane-ethyl acetate gradient (100% hexane to 50% ethyl acetate in hexane) to elute the product. The title compound is obtained (0.7% yield). ES-MS (m/z): calc'd for C18H25N5: 311.4; found 312.2 (M+H)+. 1H NMR (400 mHz, CDCl3): δ 7.51 (s, 1H), 6.75 (s, 1H), 3.72 (s, 3H), 3.33 (m, 1H), 2.53 (s, 3H), 2.43 (s, 3H), 2.00 (s, 3H), 1.87 (m, 4H), 0.92 (m, 6H).

reactant | n-BuLi | 2.09 mmol, 1.3 ml | [Li]CCCC
reactant | 1,4-dimethyl-1H-pyrazole | 2.04 mmol, 1 ml, 170 mg | CN1N=CC(=C1)C | C5H8N2
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | water | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | zinc chloride | 2.14 mmol, 0.5 M, 4.3 ml | [Cl-].[Zn+2].[Cl-]
product | 3-(2,4-dimethyl-2H-pyrazol-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.7% yield | CN1N=CC(=C1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H25N5
